US04775692
Dimethyl methylphosphonate (9.92 g, 0.08 mol) was dissolved in 60 ml anhydrous THF under argon atmosphere. To the mixture stirred at -78° C. was added drowise n-butyl lithium 1.62N, 49.5 ml, 0.08 mol) over a period of 30 minutes, and then a solution of 2,2-dimethylhexanoic acid methyl ester (5.0 g, 0.032 mol) in 10 ml anhydrous THF was added over a period of 30 minutes. The reaction mixture was warmed to room temperature. Acetic acid (5 ml) and water (10 ml) were added to the reaction mixture cooled with ice bath. After concentration, 20 ml water was added to the residue and the mixture was extracted with ethyl acetate (50 ml×2). The ethyl acetate layers were washed with water (20 ml×1) and with brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. Distillation of the residue gave dimethyl 3,3-dimethyl-2-oxoheptylphosphonate (4.74 g, 0.019 mol, yield 59.3%, b.p.=108°-111° C./0.2 mmHg) as a colorless clear oil. The structure of this product was confirmed by the following data.

reactant | Dimethyl methylphosphonate | 0.08 mol, 9.92 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 0.08 mol, 1.62N, 49.5 ml | C(CCC)[Li]
reactant | 2,2-dimethylhexanoic acid methyl ester | 0.032 mol, 5.0 g | COC(C(CCCC)(C)C)=O | C9H18O2
reactant | Acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | dimethyl 3,3-dimethyl-2-oxoheptylphosphonate | 0.019 mol, 4.74 g, yield 59.3% | CC(C(CP(OC)(OC)=O)=O)(CCCC)C | C11H23O4P
